US07314884B2
Step A]: N-Hydroxy-nicotinamidine
3-Cyanopyridine (4.0 g) and hydroxylamine hydrochloride (3.2 g) were added to a solution of sodium (1.8 g) in MeOH (60 ml). The mixture was stirred 2.5 h at RT and refluxed 30 min. After cooling to RT, solids were filtered off. The solution was evaporated. White crystals (4.7 g) were obtained upon flash chromatography (125 g silica gel; CH2Cl2/MeOH 9:1) followed by a precipitation from heptan and ethyl acetate.

reactant | 3-Cyanopyridine | 4.0 g | C(#N)C=1C=NC=CC1 | C6H4N2
reactant | hydroxylamine hydrochloride | 3.2 g | Cl.NO
reactant | sodium | 1.8 g | [Na] | Na
solvent | MeOH | 60 ml | CO | CH4O
product | N-Hydroxy-nicotinamidine | 4.7 g | ONC(C1=CN=CC=C1)=N | C6H7N3O
